US09227955B2
Preparation of 2-(1-Benzylpiperidin-4-yloxy)-N-(3-chlorophenyl)nicotinamide [289]
A solution of 1-benzyl-4-hydroxypiperidine (209 mg, 1.1 mmol, 1.1 eq) and 95 w % sodium hydride (1.2 mmol) in 5 ml of dimethylformamide was stirred at a room temperature for 30 min, mixed with 2-chloro-N-(3-chlorophenyl)nicotinamide (1.0 mmol), and stirred for 20 hrs under reflux. The reaction mixture was cooled to a room temperature, and added with 20 ml of pure water to terminate the reaction. After two rounds of extraction with 20 ml of ethylacetate per round, water was removed with a desiccant and the resulting product was concentrated under reduced pressure. Then, the residue obtained by the concentration was subjected to silica gel column chromatography (mobile phase: 30 (v/v) % hexane in EA) to obtain the desired fraction. The desired fraction was dried in a reduced pressure to afford 0.25 g of the title compound (Yield: 33.7%). 1H NMR (CDCl3) δ 8.60 (d, 1H), 8.29 (d, 1H), 7.88 (s, 1H), 7.48 (d, 1H), 7.36-7.27 (m, 6H), 7.17-7.05 (m, 2H), 5.51-5.38 (m, 1H), 3.59 (s, 2H), 2.89-2.80 (m, 2H), 2.42 (t, 2H), 2.29-2.23 (m, 2H), 2.06-1.87 (m, 2H) ppm.

reactant | 1-benzyl-4-hydroxypiperidine | 1.1 mmol, 209 mg, 1.1 eq | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | sodium hydride | 1.2 mmol | [H-].[Na+]
reactant | 2-chloro-N-(3-chlorophenyl)nicotinamide | 1.0 mmol | ClC1=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC=N1 | C12H8Cl2N2O
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-(1-Benzylpiperidin-4-yloxy)-N-(3-chlorophenyl)nicotinamide | 0.25 g, Yield: 33.7% | C(C1=CC=CC=C1)N1CCC(CC1)OC1=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC=N1 | C24H24ClN3O2
